US08304419B2
Step A: 2-[4,5-dibromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-2-yl]ethanol
n-BuLi (4.30 mL of a 1.6 M solution in hexanes, 6.80 mmol) was added dropwise to a −78° C. solution of 2,4,5-tribromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole (2.96 g, 6.80 mmol) in THF (55 mL). After 25 min, oxirane gas was bubbled through the solution for 25 mins. The reaction mixture was allowed to warm slowly to RT, stirred overnight, quenched by addition of sat'd NH4Cl and extracted with CH2Cl2. The organic phase was dried (Na2SO4), filtered, and purified by silica gel chromatography (5-50% EtOAc/hex) to afford the title compound (0.83 g, 31%) as a yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.36 (s, 2H), 3.82 (t, J=6.09 Hz, 2H), 3.55 (dd, J=8.94, 7.65 Hz, 2H), 3.10 (br. s., 1H), 2.90 (t, J=6.09 Hz, 2H), 0.85-0.98 (m, 2H), −0.02 (s, 9H).

reactant | n-BuLi | [Li]CCCC
reactant | 2,4,5-tribromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole | 6.80 mmol, 2.96 g | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
reactant | THF | 55 mL | C1CCOC1 | C4H8O
product | 2-[4,5-dibromo-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazol-2-yl]ethanol | 0.83 g, 31% | BrC=1N=C(N(C1Br)COCC[Si](C)(C)C)CCO | C11H20Br2N2O2Si
